US08871756B2
N-[2-(2-Aminoethoxy)ethyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
The title compound was prepared in analogy to Example 5-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 2,2′-oxydiethanamine. MS obsd. (ESI+) [(M+H)+] 441, 1H NMR (400 MHz, CD3OD) δ ppm 8.08 (dd, J=1.2, 7.6 Hz, 1 H), 7.92 (s, 1 H), 7.83 (d, J=7.2 Hz, 1 H), 7.70-7.67 (m, 2 H), 7.59-7.55 (m, 2 H), 5.96 (s, 1 H), 5.28 (s, 2 H), 4.49 (s, 2 H), 3.81 (t, J=5.2 Hz, 2 H), 3.72-3.68 (m, 6 H), 3.13 (t, J=4.8 Hz, 2 H), 2.45 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2,2′-oxydiethanamine | O(CCN)CCN | C4H12N2O
product | N-[2-(2-Aminoethoxy)ethyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | NCCOCCNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C23H28N4O3S
